US08236801B2
B.4.2 Synthesis of [(1R,3S,4S)-1-(2-Aza-bicyclo[2.2.1]hept-3-yl)methyl]-(5-bromo-pyrimidin-2-yl)-amine
A solution of HCl in dioxane (4.0 M, 30 mL) is added to a solution of (1R,3S,4S)-3-[(5-bromo-pyrimidin-2-ylamino)-methyl]-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (6.63 mmol) in dioxane (30 mL). After 4 h the solvents are removed in vacuo to give a crude product which is used without further purification. LC-MS: tR=0.64 min; [M+H]+=283.0.

reactant | HCl | Cl | ClH
reactant | (1R,3S,4S)-3-[(5-bromo-pyrimidin-2-ylamino)-methyl]-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 6.63 mmol | C(C)(C)(C)OC(=O)N1[C@@H]2CC[C@H]([C@H]1CNC1=NC=C(C=N1)Br)C2 | C16H23BrN4O2
solvent | dioxane | 4.0 M, 30 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | [(1R,3S,4S)-1-(2-Aza-bicyclo[2.2.1]hept-3-yl)methyl]-(5-bromo-pyrimidin-2-yl)-amine | [C@@H]12N[C@@H]([C@@H](CC1)C2)CNC2=NC=C(C=N2)Br | C11H15BrN4
